US06797731B2
trans-4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl Phenylcarbamate
N,N-Diisopropylethylamine (100 μl) and phenylisocyanate (55 μl) were added to a stirred solution of trans-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexanol (50 mg) in anhydrous dichloromethane (2 ml). After 96 hr at 40° C., the reaction mixture was partitioned between ethyl acetate (50 ml) and water (50 ml). The aqueous layer was extracted with ethyl acetate (2×50 ml). The combined organic extracts were washed with brine (50 ml); dried over magnesium sulfate and evaporated in vacuo. The residue was purified using flash column chromatography (SiO2, ethyl acetate/petrol, 1:2 v/v) to give the title compound (50 mg, 79%) as a pale yellow gum. δH(CDCl3) 0.00 (6H, s), 0.06 (6H, s), 0.80 (9H, s), 0.83 (9H, s), 1.30-1.40 (4H, m), 1.70-1.75 (2H, m), 2.00-2.05 (2H, m), 2.60-2.70 (1H, m), 4.55-4.65 (1H, m), 6.10 (1H, d), 6.23 (1H, dd), 6.40 (1H, s), 6.76-7.20 (5H, m).

reactant | N,N-Diisopropylethylamine | 100 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phenylisocyanate | 55 μl | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | trans-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexanol | 50 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@@H]1CC[C@H](CC1)O | C24H44O3Si2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | trans-4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl Phenylcarbamate | 50 mg, 79% | C1(=CC=CC=C1)NC(O[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)=O | C31H49NO4Si2
